US08455507B2
Method L: 1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazole-6-thiol
Tris-(2-carboxyethyl)phosphine hydrochloride (TCEP.HCl, 650 mg, 2.2 mmol) was added to a solution of 1,2-bis(1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazol-6-yl)disulfane (1 g, 2.2 mmol) and disopropylethylamine (0.4 ml, 2.1 mmol) in a mixture of water and dimethylformamide (2 ml/10 ml). The reaction mixture was stirred at room temperature for 120 minutes. The reaction mixture was diluted with ethyl acetate, and then washed with brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo to afford the compound as a white solid. MS (ES+) 233.

reactant | Tris-(2-carboxyethyl)phosphine hydrochloride | 2.2 mmol, 650 mg | Cl.C(=O)(O)CCP(CCC(=O)O)CCC(=O)O
reactant | 1,2-bis(1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazol-6-yl)disulfane | 2.2 mmol, 1 g | CN1C(=NC2=C1C=C(C=C2)SSC=2C=CC1=C(N(C(=N1)C(F)(F)F)C)C2)C(F)(F)F | C18H12F6N4S2
solvent | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-2-(trifluoromethyl)-1H-benzo[d]imidazole-6-thiol | CN1C(=NC2=C1C=C(C=C2)S)C(F)(F)F | C9H7F3N2S
